US04579854
5 g of 5-acetyl-8-benzyloxyquinoline are dissolved in 50 ml of chloroform. The solution is ice-cooled and 3.12 g of 80% m-chloroperbenzoic acid are added thereto under stirring. The mixture is stirred at room temperature for 24 hours and at 50° C. for 7.5 hours. The mixture is then stirred at room temperature for 64 hours. 2 g of 80% m-chloroperbenzoic acid are further added to the mixture during the reaction. After the reaction, chloroform is added to the mixture. The mixture is washed with water, a 4% sodium bicarbonate solution and a saturated sodium chloride solution, dried and then evaporated under reduced pressure to remove chloroform. 5-Acetyl-8-benzyloxyquinoline-N-oxide is obtained as yellow solid.

reactant | 5-acetyl-8-benzyloxyquinoline | 5 g | C(C)(=O)C1=C2C=CC=NC2=C(C=C1)OCC1=CC=CC=C1 | C18H15NO2
reactant | m-chloroperbenzoic acid | 3.12 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chloroperbenzoic acid | 2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Acetyl-8-benzyloxyquinoline-N-oxide | C(C)(=O)C1=C2C=CC=[N+](C2=C(C=C1)OCC1=CC=CC=C1)[O-] | C18H15NO3
